US04719049
To a 5 L 3-neck flask fitted with condenser, thermometer, and overhead stirrer was added 2-ethylanthraquinone (Aldrich, 120 g, 0.51 mol), Zn dust (Mallinckrodt, 300 g, 4.59 mol), CuSO4.5H2O (Mallinckrodt, 3.0 g), and 28% NH4OH (Mallinckrodt, 2.8 mL). The temperature was increased until the initial dark red color had faded (about 6 h). The reaction mixture was then filtered. The filtrate was extracted with EtOAc (5×1 L), and the filter cake washed with EtOAc (2×1 L). The EtOAc solutions were combined and the solvent removed. The residue was refluxed with a mixture of conc. HCl (10 mL) in i-PrOH (1.2 L) for 2 h. Upon cooling, a solid precipitated which was filtered, washed with abs. EtOH (100 mL) and dried to give 40 g (38%) of 2-ethylanthracene mp 140°-142°, (lit. mp 148°-150°, L. H. Klemm et al., J. Org. Chem. 28, 625 (1983), (C, H).

reactant | 2-ethylanthraquinone | 0.51 mol, 120 g | C(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C16H12O2
reactant | NH4OH | 2.8 mL | [NH4+].[OH-]
catalyst | Zn | 4.59 mol, 300 g | [Zn] | Zn
product | 2-ethylanthracene | 40 g, 38% | C(C)C1=CC2=CC3=CC=CC=C3C=C2C=C1 | C16H14
